US07429594B2
2-(2-Hydroxy-3-phenyl-propylamino)-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one
To a stirring solution of 1-amino-3-phenyl-propan-2-ol (0.51 g, 3.3 mmol) and triethylamine (0.45 mL, 3.3 mmol) in 20 mL dichloromethane was added (0.92 g, 2.6 mmol) 2-chloro-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one. The solution was stirred for 18 h at room temperature. The solution was diluted with ethyl acetate and washed with 5% sodium bicarbonate. The organic layer was dried over magnesium sulfate and purified on 10 g silica eluting product with 0 to 5% methanol/dichloromethane to give a pale yellow solid. M+1=463.2.

reactant | 1-amino-3-phenyl-propan-2-ol | 3.3 mmol, 0.51 g | NCC(CC1=CC=CC=C1)O | C9H13NO
reactant | triethylamine | 3.3 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one | 2.6 mmol, 0.92 g | ClC1=NC(=C(C(N1C)=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1 | C20H14ClN3O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Hydroxy-3-phenyl-propylamino)-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one | OC(CNC1=NC(=C(C(N1C)=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1)CC1=CC=CC=C1 | C29H26N4O2
